US07582760B2
[2-(1-Benzyl-3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazol-4-yloxy)-ethyl]-methyl-carbamic acid tert-butyl ester (92 mg, 0.223 mmol) was dissolved in 1 mL ethanol and combined with 0.5 mL of 2N ethanolic HCl, and the resulting solution was refluxed 30 minutes. On cooling, a white precipitate was observed. The solid was filtered and dried for 18 hours under vacuum to give 47 mg of 1-benzyl-3-methyl-4-(2-methylamino-ethoxy)-1,3-dihydro-benzoimidazol-2-one hydrochloride. MP: 203.8-205.1° C. MS: 312 (M+H)+.

reactant | [2-(1-Benzyl-3-methyl-2-oxo-2,3-dihydro-1H-benzoimidazol-4-yloxy)-ethyl]-methyl-carbamic acid tert-butyl ester | 0.223 mmol, 92 mg | C(C)(C)(C)OC(N(C)CCOC1=CC=CC=2N(C(N(C21)C)=O)CC2=CC=CC=C2)=O | C23H29N3O4
reactant | HCl | 2N, 0.5 mL | Cl | ClH
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 1-benzyl-3-methyl-4-(2-methylamino-ethoxy)-1,3-dihydro-benzoimidazol-2-one hydrochloride | 47 mg | Cl.C(C1=CC=CC=C1)N1C(N(C2=C1C=CC=C2OCCNC)C)=O | InChI=1S/C18H21N3O2.ClH/c1-19-11-12-23-16-10-6-9-15-17(16)20(2)18(22)21(15)13-14-7-4-3-5-8-14;/h3-10,19H,11-13H2,1-2H3;1H
